US07635715B2
Step C: Preparation of 4-(6-chloro-2-hydroxy-4-oxo-2′,3′,5′,6′-tetrahydro-4H-spiro[naphthalene-1,4′-pyran]-3-yl)-4-oxobutanoic acid
A mixture of 4-(6-chloro-2-hydroxy-4-oxo-2′,3′,5′,6′-tetrahydro-4H-spiro[naphthalene-1,4′-pyran]-3-yl)-4-oxobutanal (0.2 g, 0.6 mmol) in 3 mL DMF was stirred at room temperature and treated with oxone (0.3 mL, 0.6 mmol). The mixture was stirred at room temperature for 2 hours. The mixture was quenched with 10 mL H2O and adjusted to pH=5 with concentrated HCl. The solid was collected by filtration and washed with 10 mL H2O. The crude product was dissolved in 50 mL EtOAc and washed with 20 mL H2O and then with 20 mL brine. The organic layer was dried over anhydrous Na2SO4, and concentrated in vacuo to give 0.20 g white solid. MS m/e: 365 (M+H)+. Calculated for C18H17ClO6: 364.

reactant | 4-(6-chloro-2-hydroxy-4-oxo-2′,3′,5′,6′-tetrahydro-4H-spiro[naphthalene-1,4′-pyran]-3-yl)-4-oxobutanal | 0.6 mmol, 0.2 g | ClC=1C=C2C(C(=C(C3(CCOCC3)C2=CC1)O)C(CCC=O)=O)=O | C18H17ClO5
reactant | oxone | 0.6 mmol, 0.3 mL | OOS(=O)[O-].[K+]
solvent | DMF | 3 mL | CN(C)C=O | C3H7NO
product | 4-(6-chloro-2-hydroxy-4-oxo-2′,3′,5′,6′-tetrahydro-4H-spiro[naphthalene-1,4′-pyran]-3-yl)-4-oxobutanoic acid | 0.20 g | ClC=1C=C2C(C(=C(C3(CCOCC3)C2=CC1)O)C(CCC(=O)O)=O)=O | C18H17ClO6
